US09260408B2
To a stirred solution of 5-(6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester (430 mg, 1.52 mmol) in THF (15.0 mL) was added 60% NaH (91 mg, 2.28 mmol) at 0° C. and the reaction mixture was stirred at 2-5° C. for 0.5 h before CH3I (0.3 mL, 4.56 mmol) was added. After stirring overnight at RT, it was poured into water (5.0 mL). After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give 5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester (383.7 mg, 85%) as a light yellow solid. MS: 298.1 (M+H+).

reactant | 5-(6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester | 1.52 mmol, 430 mg | COC(C1=CN=CC(=C1)C1=NC=2CCC(NC2C=C1)=O)=O | C15H13N3O3
reactant | NaH | 2.28 mmol, 91 mg | [H-].[Na+]
reactant | CH3I | 4.56 mmol, 0.3 mL | CI | CH3I
reactant | water | 5.0 mL | O | H2O
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
product | 5-(5-methyl-6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester | 383.7 mg, 85% | COC(C1=CN=CC(=C1)C1=NC=2CCC(N(C2C=C1)C)=O)=O | C16H15N3O3
